US06699904B2
A solution of 3-(4-{2-[3-(2,4-dimethoxy-phenyl)-1-heptyl-ureido]-ethyl}-phenyl)-2-ethoxy-propionic acid methyl ester (249 mg, 0.47 mmol) and 1 M LiOH (1.41 mmol, 1.41 mL) in tetrahydrofuran (2 mL) was allowed to stir at room temperature for 16 hours. The solution was quenched by the addition of 2 N HCl until the solution had a pH<2. After dilution with twice its volume in water, the aqueous layer was extracted with diethyl ether (2×). The organic layers were combined, washed with 2 M HCl (2×), dried over anhydrous sodium sulfate, and concentrated to give 3-(4-{2-[3-(2,4-dimethoxy-phenyl)-1-heptyl-ureido]-ethyl}-phenyl)-2-ethoxy-propionic acid as a clear oil (229 mg, 95%).

reactant | 3-(4-{2-[3-(2,4-dimethoxy-phenyl)-1-heptyl-ureido]-ethyl}-phenyl)-2-ethoxy-propionic acid methyl ester | 0.47 mmol, 249 mg | COC(C(CC1=CC=C(C=C1)CCN(C(=O)NC1=C(C=C(C=C1)OC)OC)CCCCCCC)OCC)=O | C30H44N2O6
reactant | LiOH | 1.41 mmol, 1 M, 1.41 mL | [Li+].[OH-]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(4-{2-[3-(2,4-dimethoxy-phenyl)-1-heptyl-ureido]-ethyl}-phenyl)-2-ethoxy-propionic acid | 229 mg, 95% | COC1=C(C=CC(=C1)OC)NC(N(CCCCCCC)CCC1=CC=C(C=C1)CC(C(=O)O)OCC)=O | C29H42N2O6
